US06642388B1
b) 2-Aminomethyl-4-cyanothiazole Hydrochloride
Boc-2-aminomethylthiazole-4-carboxamide (75.0 g, 0.29 mol) was suspended in 524 ml of methylene chloride and, at from −5 to 0° C., admixed with triethylamine (78.9 g, 0.78 mol) and 79.5 g (0.38 mol) of trifluoroacetic anhydride. The mixture was stirred for another 1 h and then allowed to warm to 20-25° C., 1190 ml of water were added and the phases were separated. 160 ml of 5-6 N isopropanolic hydrochloric acid were added to the organic phase, the mixture was heated to the boil for 3 h, stirred at 20-25° C. overnight and cooled to from −5 to 0° C. for 2.5 h, and the solid was filtered off, washed with methylene chloride and dried. This gave 48.1 g of 2-aminomethyl-4-cyanothiazole of an HPLC purity of 99.4 area %, which corresponds to a yield over these two steps of 94.3%.

reactant | Boc-2-aminomethylthiazole-4-carboxamide | 0.29 mol, 75.0 g | C(=O)(OC(C)(C)C)C1=C(N=C(S1)CN)C(=O)N | C10H15N3O3S
reactant | triethylamine | 0.78 mol, 78.9 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.38 mol, 79.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 1190 ml | O | H2O
reactant | methylene chloride | 524 ml | C(Cl)Cl | CH2Cl2
product | 2-Aminomethyl-4-cyanothiazole Hydrochloride | Cl.NCC=1SC=C(N1)C#N | InChI=1S/C5H5N3S.ClH/c6-1-4-3-9-5(2-7)8-4;/h3H,2,7H2;1H
